US05162334
17-Ethyl-1,14-dihydroxy-12-[2'-(4"-(2-butynyloxy)-3"-hydroxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone
To a solution of 17-ethyl-1,14-dihydroxy-12-[2'-(4",3"-dihydroxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone (50 mg in 1.5 ml 33% methylene chloride in cyclohexane) is added 2-butynyl trichloroacetimidate (20 μl neat) and the reagents are allowed to mix for 5 minutes. Trifluoromethanesulfonic acid (2 μl neat) is added slowly via syringe and the mixture stirred at room temperature. After 16 hours the reaction is quenched by the addition of saturated sodium bicarbonate and extracted with ethyl acetate (3×5 ml). The combined organics are washed with brine and dried over magnesium sulfate. Purification of the concentrate by preparative TLC on silica gel gives the title compound.

reactant | 17-ethyl-1,14-dihydroxy-12-[2'-(4",3"-dihydroxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone | 1.5 ml, 50 mg | C(C)C1C(CC(C(C(OC(C2CCCCN2C(C(C2(C(CC(C(C(CC(CC(=C1)C)C)OC)O2)OC)C)O)=O)=O)=O)C(=CC2CC(C(CC2)O)O)C)C)O)=O | C42H67NO12
reactant | Trifluoromethanesulfonic acid | 2 μl | FC(S(=O)(=O)O)(F)F | CHF3O3S
solvent | 2-butynyl trichloroacetimidate | 20 μl | ClC(C(OCC#CC)=N)(Cl)Cl | C6H6Cl3NO
product | 17-Ethyl-1,14-dihydroxy-12-[2'-(4"-(2-butynyloxy)-3"-hydroxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone | C(C)C1C(CC(C(C(OC(C2CCCCN2C(C(C2(C(CC(C(C(CC(CC(=C1)C)C)OC)O2)OC)C)O)=O)=O)=O)C(=CC2CC(C(CC2)OCC#CC)O)C)C)O)=O | C46H71NO12
